US07960584B2
Step 2: 4-aminomethyl-5-chloro-2-iodophenylamine
A dried 25 ml of two-neck round bottom flask was filled with argon gas. The solution of 4-amino-2-chloro-5-iodo-benzonitrile (63.8 mg, 0.23 mmol) in tetrahydrofuran was put into the flask and cooled to 0° C. To the solution was added Borane-THF complex (2 eq, 0.46 mmol, 0.4 ml) slowly. The temperature of the mixture was raised and heated to reflux for 12 hours. After confirming the completion of the reaction with TLC, to the solution was added methanol slowly (generation of bubbles) and stirred for 2 hours. The methanol was removed under reduced pressure and the residue was extracted with ethylacetate. The ethylacetate layer was washed with water and brine, dried over Na2SO4, filtered, and concentrated under reduced pressure to yield a yellow syrup (46.5 mg, 71.85%).

reactant | 4-amino-2-chloro-5-iodo-benzonitrile | 0.23 mmol, 63.8 mg | NC1=CC(=C(C#N)C=C1I)Cl | C7H4ClIN2
reactant | methanol | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-aminomethyl-5-chloro-2-iodophenylamine | 46.5 mg, 71.85% | NCC1=CC(=C(C=C1Cl)N)I | C7H8ClIN2
